US08877779B2
To a mixture of 2a,3,4,5-tetrahydro-2H-acenaphthylen-1-one (12.2 g, 70.9 mmol), hydroxylamine hydrochloride (7.85 g) and water (90 ml) were slowly added sodium acetate (14.5 g), methanol (120 ml), THF (30 ml) and water (60 ml) with stirring while heating at 75° C., and the mixture was stirred for 2 hr and 40 min. After cooling to room temperature, methanol was evaporated under reduced pressure, and the obtained precipitate was collected by filtration, and washed with water to give 2a,3,4,5-tetrahydro-2H-acenaphthylen-1-one oxime (13.5 g).

reactant | 2a,3,4,5-tetrahydro-2H-acenaphthylen-1-one | 70.9 mmol, 12.2 g | C1(CC2CCCC3=CC=CC1=C23)=O | C12H12O
reactant | hydroxylamine hydrochloride | 7.85 g | Cl.NO
reactant | sodium acetate | 14.5 g | C(C)(=O)[O-].[Na+]
solvent | water | 60 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | methanol | 120 ml | CO | CH4O
solvent | water | 90 ml | O | H2O
product | 2a,3,4,5-tetrahydro-2H-acenaphthylen-1-one oxime | 13.5 g | C1(CC2CCCC3=CC=CC1=C23)=NO | C12H13NO
